US08466289B2
Synthesis of Intermediate Trifluoro-methanesulfonic acid 1-benzyl-6-methyl-8-nitro-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-7-yl ester (I-1e)
Triflic anhydride (2.8 g, 0.010 mol) was added to a stirred solution of 1-benzyl-7-hydroxy-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (2 g, 0.007 mol) and TEA (1.34 g, 0.013 mol) in DCM (40 mL) at −78° C. The resulting mixture was stirred at room temperature for 4 hours. The reaction mixture was monitored by TLC (100% ethyl acetate). The reaction mixture was partitioned between DCM and water. The organic layer was washed with NaHCO3 solution, brine solution, dried over Na2SO4 and concentrated. Purification by column chromatography on silica gel (30% ethylacetate in hexane) afforded 2.5 g of the product (89% yield).

reactant | Triflic anhydride | 0.010 mol, 2.8 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 1-benzyl-7-hydroxy-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 0.007 mol, 2 g | C(C1=CC=CC=C1)N1CCN2C1=C(C(=C(C2=O)C)O)[N+](=O)[O-] | C15H15N3O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 1-benzyl-6-methyl-8-nitro-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-7-yl ester | 2.5 g, 89% yield | C(C1=CC=CC=C1)N1CCN2C1=C(C(=C(C2=O)C)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C16H14F3N3O6S
